US07763602B2
Step-2: 1,2-bis(4-chlorophenyl)-5-ethylpyrrole
A mixture of 1-(4-chlorophenyl)hexane-1,4-dione (2.10 g, 9.35 mmol, as obtained in Step-1), 4-chloro aniline (1.31 g, 10.29 mmol), and p-toluene sulfonic acid (0.321 g, 1.80 mmol) in toluene (5.0 ml) was refluxed over molecular sieves or using a Dean Stark apparatus. The progress of the reaction was monitored by TLC and after three hours, toluene was removed under reduced pressure. The residue was dissolved in ethyl acetate (200 ml), washed with aqueous sodium bicarbonate solution (2×75 ml), followed by washing with water (2×50 ml) and brine (1×25 ml). The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent evaporated off. The solid so obtained was washed with hexane to give 2.39 g (81%) of the title compound.

reactant | 1-(4-chlorophenyl)hexane-1,4-dione | 9.35 mmol, 2.10 g | ClC1=CC=C(C=C1)C(CCC(CC)=O)=O | C12H13ClO2
reactant | 4-chloro aniline | 10.29 mmol, 1.31 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | p-toluene sulfonic acid | 1.80 mmol, 0.321 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-bis(4-chlorophenyl)-5-ethylpyrrole | 2.39 g, 81% | ClC1=CC=C(C=C1)N1C(=CC=C1CC)C1=CC=C(C=C1)Cl | C18H15Cl2N
